US05312929
Preparation of 1-(1,1-dimethyl-2-oxohexyl)-4-methyl-3-phenyl-3-pyrrolin-2-one (Compound No. 38)
5 g (19.3 mmol) of 2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)isobutyric acid was dissolved in 50 ml of tetrahydrofuran, and a solution of 41 g (97 mmol) of 15% n-butyl lithium in n-hexane was dropwise added at 0° C. under a nitrogen stream. After completion of the dropwise addition, the mixture was stirred at room temperature for one day. The reaction solution was poured into ice water and extracted with ethyl acetate. The extract was treated by a conventional method, and the crude product thereby obtained was purified by column chromatography to obtain 2.7 g (yield: 47%) of the desired product having a melting point of from 87° to 89° C.

reactant | 2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)isobutyric acid | 19.3 mmol, 5 g | CC1=C(C(N(C1)C(C(=O)O)(C)C)=O)C1=CC=CC=C1 | C15H17NO3
reactant | n-butyl lithium | 97 mmol, 41 g | C(CCC)[Li]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | 1-(1,1-dimethyl-2-oxohexyl)-4-methyl-3-phenyl-3-pyrrolin-2-one | 2.7 g, yield: 47% | CC(C(CCCC)=O)(C)N1C(C(=C(C1)C)C1=CC=CC=C1)=O | C19H25NO2
